US08053440B2
To a 100 mL round bottom flask was added 2-amino-4,6-dimethoxy-benzamide (318 mg, 1.6 mmol), 4-(2-benzyloxy-ethoxy)-3,5-dimethyl-benzaldehyde (461 mg, 1.6 mmol), p-toluenesulfonic acid monohydrate (32 mg, 0.16 mmol), sodium hydrogensulfite (318 mg, 1.8 mmol) and dimethylacetamide (5 mL). The mixture was stirred in a 150° C. oil bath under nitrogen overnight. Water (40 mL) and ether (30 mL) were added. The precipitate was filtered off, washed with water then ether, and air-dried. The intermediate 2-[4-(2-benzyloxyethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one was obtained as light brown/beige solid. Yield 474 mg (64%). 2-[4-(2-Benzyloxy-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (474 mg, 1.03 mmol) was stirred in phosphorus oxychloride (10 mL) at 100° C. for 4 h. Excess phosphorus oxychloride was removed under reduced pressure. Ice was added and the solid was collected. The solid was washed with water and ether, and air-dried. 2-[4-(2-benzyloxy-ethoxy)-3,5-dimethyl-phenyl]-4-chloro-5,7-dimethoxy-quinazoline was obtained as a light brown solid (yield: 356 mg, 72%). 2-[4-(2-Benzyloxy-ethoxy)-3,5-dimethyl-phenyl]-4-chloro-5,7-dimethoxy-quinazoline (192 mg, 0.4 mmol) was dissolved in a small amount of THF and 10% Pd/C (dry) (66 mg) was added. Anhydrous methanol (20 mL) and ammonium formate (955 mg) were added. The mixture was stirred in a 80° C. oil bath for 5 h. The mixture was filtered through Celite, washed with MeOH/DCM, purified by column chromatography to give 2-(4-(5,7-dimethoxyquinazolin-2-yl)-2,6-dimethylphenoxy)ethanol (36 mg, 25%) as an off-white solid. Selected data: MS (ES) m/z: 355.04; mp 169-170° C.

reactant | 2-[4-(2-Benzyloxy-ethoxy)-3,5-dimethyl-phenyl]-4-chloro-5,7-dimethoxy-quinazoline | 0.4 mmol, 192 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(=N1)Cl)OC)OC)C | C27H27ClN2O4
reactant | methanol | 20 mL | CO | CH4O
reactant | ammonium formate | 955 mg | C(=O)[O-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | 66 mg | [Pd] | Pd
product | 2-(4-(5,7-dimethoxyquinazolin-2-yl)-2,6-dimethylphenoxy)ethanol | 36 mg, 25% | COC1=C2C=NC(=NC2=CC(=C1)OC)C1=CC(=C(OCCO)C(=C1)C)C | C20H22N2O4
